US09353126B2
5,6-Dihydrobenzo[h]quinazolin-2(3H)-one (2.97 g) was heated at 100° C. in phosphorus (III) oxychloride (70 mL) for 2 h. The solvent was removed under vacuum and the residue was treated with ice, followed by 1M aqueous potassium carbonate solution. The aqueous solution was extracted with a mixture of ether and ethyl acetate, dried over anhydrous sodium sulfate and concentrated under vacuum to give 2-chloro-5,6-dihydrobenzo[h]quinazoline as a yellow solid; 1H NMR (CDCl3/MeOD4, 300 MHz) 8.86 (s, 1H), 8.16 (m, 1H), 7.25-7.35 (m, 2H), 7.15 (m, 1H), 2.85 (m, 4H) ppm; 13C NMR (CDCl3/MeOD4, 75 MHz) 162.83, 159.45, 157.40, 139.60, 132.35, 130.99, 128.38, 127.61, 127.20, 126.14, 27.39, 24.11; MS (ES) 217/219 (M+H).

reactant | 5,6-Dihydrobenzo[h]quinazolin-2(3H)-one | 2.97 g | N=1C(NC=C2CCC3=C(C12)C=CC=C3)=O | C12H10N2O
reactant | phosphorus (III) oxychloride | 70 mL | O(Cl)Cl.[P+3]
product | 2-chloro-5,6-dihydrobenzo[h]quinazoline | ClC1=NC=2C3=C(CCC2C=N1)C=CC=C3 | C12H9ClN2
